US07396934B2
104 kg of a 32% sodium hydroxide solution are added to 341 kg of water. The solution is cooled to 0° C. and 22.0 kg of bromine are introduced over 1.5 hours while maintaining the temperature at 0° C. The solution is stirred at this temperature for 1 hour, and then 409 kg of pyridine are introduced over 3 hours at 0° C. 26.5 kg of 6-methoxy-quinoline-3-carboxamide are then added over 50 minutes at 0° C. The reaction medium is kept at this temperature for 2 hours and then gradually heated to 60° C. over 1 hour. After maintaining the temperature at 60° C. for 6 hours, the reaction mass is cooled to 20° C. and separated by settling out. The aqueous phase (172 kg) is washed with pyridine (60 liters). The organic phases are pooled (820 kg) and concentrated to dryness under reduced pressure (100-150 mbar) at a maximum of 84° C. The residue is then taken up with 425 l of water and 43 l of ethanol. The suspension obtained is refluxed for 1 hour and then cooled. The product begins to precipitate at a temperature of 65° C. The medium is then cooled to 0-5° C., and kept at this temperature for 2 hours. The precipitate is filtered off, washed with cold water, and then dried at 50-55° C. under reduced pressure. 16.5 kg (72.3%) of 3-amino-6-methoxyquinoline are obtained in the form of a brown solid (HPLC titer=99.1%), having a melting point of 108-110° C. A second crop of 3.7 kg (13.1%) is obtained from the mother liquors (HPLC titer=98%).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 341 kg | O | H2O
reactant | bromine | 22.0 kg | BrBr | Br2
reactant | 6-methoxy-quinoline-3-carboxamide | 26.5 kg | COC=1C=C2C=C(C=NC2=CC1)C(=O)N | C11H10N2O2
reactant | pyridine | 409 kg | N1=CC=CC=C1 | C5H5N
product | 3-amino-6-methoxyquinoline | 16.5 kg, 72.3% | NC=1C=NC2=CC=C(C=C2C1)OC | C10H10N2O
